US05155116
EXAMPLE 14: 3-MORPHOLINOMETHYL-3H-OXAZOLO[4,5-b]PYRIDIN-2-ONE
4.1 g (0.03 mol) of 3H-oxazolo[4,5-b]pyridin-2-one are dissolved in 100 ml of alcohol at 95° C. 2.88 g (0.33 mol) of morpholine and then 3 ml of 30% aqueous formaldehyde solution are added. The mixture is stirred on a water bath at a temperature in the region of 50° C. for one hour 30 minutes, stirring being maintained. The mixture is left to stand for one hour at room temperature. The crystals are drained and recrystallized.

reactant | 3H-oxazolo[4,5-b]pyridin-2-one | 0.03 mol, 4.1 g | O1C(NC2=NC=CC=C21)=O | C6H4N2O2
reactant | morpholine | 0.33 mol, 2.88 g | N1CCOCC1 | C4H9NO
reactant | formaldehyde | 3 ml | C=O | CH2O
product | 3-MORPHOLINOMETHYL-3H-OXAZOLO[4,5-b]PYRIDIN-2-ONE | O1CCN(CC1)CN1C(OC=2C1=NC=CC2)=O | C11H13N3O3
